*-----------------------------------------------------------------------------------------
* LM119/LM219/LM319 spice macromodel
* CONNECTIONS :
* 1 NON-INVERTING INPUT
* 2 INVERTING INPUT
* 3 POSITIVE POWER SUPPLY
* 4 NEGATIVE POWER SUPPLY
* 5 OUTPUT
*
**********************************************************
.SUBCKT LMX19 2 1 44 55 33
EVCCP 4 0 44 0 1.0
EVCCN 5 0 55 0 1.0
VREADIO 3 33 DC 0
R_ICCSAT_HIGH ICC_OUT_HIGH 0 1k
R_ICCSAT_LOW ICC_OUT_LOW 0 1k
G_ICCSAT 44 55 VALUE={IF(V(3)>(V(44)+V(55))/2, V(Icc_out_high), V(Icc_out_low) ) }
E_ICCSAT_HIGH ICC_OUT_HIGH 0 VALUE={4E-4*V(44,55)}
E_ICCSAT_LOW ICC_OUT_LOW 0 VALUE={1E-3 + 1E-4*V(44,55)}
G_IOUT_SINKED 55 0 VALUE={IF (V(1)<V(2), 0, I(VreadIo))}
.MODEL MDTH D IS=1E-11 KF=1.050321E-32 CJO=10F
* INPUT STAGE
CIP 2 5 1.000000E-12
CIN 1 5 1.000000E-12
EIP 102 0 2 0 1
VIO 10 102 880U
EIN 16 0 1 0 1
RIP 10 11 6.500000E+01
RIN 15 16 6.500000E+01
RIS 11 15 1.939046E+02
DIP 11 12 MDTH 400E-12
DIN 15 14 MDTH 400E-12
VOFP 12 13 DC 0.000000E+00
VOFN 13 14 DC 0
IPOL 13 0 100E-06
CPS 11 15 3.7E-10
DINN 17 13 MDTH 400E-12
VIN 17 5 2.000000E+00
DINR 15 18 MDTH 400E-12
VIP 4 18 2.000000E+00
FCP1 4 0 VOFP 80 
FCP2 0 4 VOFN 80
FCN1 0 5 VOFP 30
FCN2 5 0 VOFN 30 
FIBP 2 0 VOFN 3E-03
FIBN 0 1 VOFP 3E-03
* AMPLIFYING STAGE
RG1 5 19 2.85E+05
RG2 4 19 2.85E+05
DOP 19 25 MDTH 400E-12
VOP 4 25 1.097
DON 24 19 MDTH 400E-12
VON 24 5 1.097
FIP 0 19 VOFP -104 
FIN 0 19 VOFN -104
EOUT 26 5 19 5 1 
.MODEL NMOD NPN(IS=0.1E-09 BF=1500)
RBOUT 27 26 800K
QOUT 103 27 28 28 NMOD
RCEOUT 103 28 15.02E+07
REOUT 28 5 20
RSOUT 3 0 1E+12
VNUL 3 103 0
.ENDS LMX19