* C:\Users\loict\Nextcloud\Portable UCL\Master\LELEC2811 Sensors\Github\P2 - LTSpice hands-on-20241025\Shematic1.asc
XU1 N001 VOUT photoresistor
VVDD N001 0 5
R1 VOUT 0 100k
.lib ./photoresistor.lib
.op
.step dec param LUX 1e-3 1e3 10
.backanno
.end
