.SUBCKT photoresistor VP VM

.PARAM R_dark = 5Meg
.PARAM R_10_lux = 100k
.PARAM gamma = 0.8
.PARAM K = R_10_lux/pwr(10,-gamma)

.PARAM R_var = K*pwr(LUX,-gamma)

Rphoto	VP VM	{R_var}
Rdark	VP VM	{R_dark}

.ENDS photoresistor
